US06897231B2
C. N-[3-(5-{5-[(Dimethylamino)Methyl](1H-1,2,4-triazol-3-yl)}(1H-indazol-3-yl))phenyl]-3-pyridylcarboxamide
The title compound was prepared according to example Example 329 C using N-{3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl}-3-pyridylcarboxamide hydrochloride (0.400 g, 0.873 mmol), N-amino-2-(dimethylamino)acetamide (0.306 g, 2.62 mmol) and sodium methoxide in methanol (0.609 mL, 4.37 M). The title compound was isolated after purification by preparative HPLC (0.037 g, 10% yield): 1H NMR (CD3OD) δ 9.16 (dd, 1H), 8.79 (d, 1H), 8.75 (dd, 1H), 8.43 (dt, 1H), 8.39 (s, 1H), 8.09 (dd, 1H), 7.89-7.83 (m, 2H), 7.72 (d, 1H), 7.65-7.56 (m, 2H), 4.06 (br s, 2H), 2.61 (br s, 6H); ES-MS (m/z) 439 [M+H]+.

reactant | N-{3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl}-3-pyridylcarboxamide hydrochloride | 0.873 mmol, 0.400 g | Cl.C(C)ON=CC=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(=O)C=1C=NC=CC1
reactant | N-amino-2-(dimethylamino)acetamide | 2.62 mmol, 0.306 g | NNC(CN(C)C)=O | C4H11N3O
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 4.37 M, 0.609 mL | CO | CH4O
product | N-[3-(5-{5-[(Dimethylamino)Methyl](1H-1,2,4-triazol-3-yl)}(1H-indazol-3-yl))phenyl]-3-pyridylcarboxamide | CN(C)CC1=NC(=NN1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(=O)C=1C=NC=CC1 | C24H22N8O
